US04496572
Bromine (2.08 g) was added dropwise to a stirred mixture of 2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester (2.40 g) and anhydrous sodium acetate (2.40 g) in chloroform (50 ml). The mixture was stirred for 2 hours at room temperature and then washed with water, sodium bicarbonate solution and dried (NaSO4). Evaporation of the chloroform gave a solid which was crystallised from methanol/water to give 3-bromo-2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester (2.00 g), m.p. 84°-85°.

reactant | Bromine | 2.08 g | BrBr | Br2
reactant | 2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester | 2.40 g | COC(=O)C1=CC2=C(SC(=C2)C)C=C1 | C11H10O2S
reactant | sodium acetate | 2.40 g | C(C)(=O)[O-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester | 2.00 g | COC(=O)C1=CC2=C(SC(=C2Br)C)C=C1 | C11H9BrO2S
